US07935693B2
The compound of formula (Cc), 5′,5′-dimethyl-3-nitro-6,8,9,10-tetrahydro-5H-spiro[cycloocta[b]pyridine-7,2′-[1,3]dioxane], was hydrogenated in ethanol/THF solution over 10% Pd/C for 1 hour at 40 psi to give the compound of formula (Cd), 5′,5′-dimethyl-6,8,9,10-tetrahydro-5H-spiro[cycloocta[b]pyridine-7,2′-[1,3]dioxan]-3-amine, in quantitative yield; MS (ES) 277.67 (M+2H).

reactant | 5′,5′-dimethyl-3-nitro-6,8,9,10-tetrahydro-5H-spiro[cycloocta[b]pyridine-7,2′-[1,3]dioxane] | CC1(COC2(OC1)CCC=1C(=NC=C(C1)[N+](=O)[O-])CCC2)C | C16H22N2O4
solvent | ethanol THF | C(C)O.C1CCOC1
catalyst | Pd/C | [Pd] | Pd
product | 5′,5′-dimethyl-6,8,9,10-tetrahydro-5H-spiro[cycloocta[b]pyridine-7,2′-[1,3]dioxan]-3-amine | quantitative yield | CC1(COC2(OC1)CCC=1C(=NC=C(C1)N)CCC2)C | C16H24N2O2
